US05646173
An ozone stream (3 g ozone/hour) was conducted for 100 minutes while stirring through a solution, cooled to -70°, of 18.9 g of (RS)-2-(2-buten-1-yl)-6-fluoro-1-indanone in 300 ml of anhydrous dichloro-methane and 60 ml of anhydrous methanol. Subsequently, the solution was flushed with oxygen for 5 minutes and with argon for 10 minutes. After the addition of 102 ml of dimethyl sulfide, the mixture was stirred at room temperature for 16 hours. The reaction mixture was evaporated in a vacuum, the residue was treated with 300 ml of dichloromethane and, after the addition of 43 ml of water and 43 ml of trifluoroacetic acid, stirred at room temperature for 3 hours. The mixture was subsequently poured into 200 ml of water and neutralized by the spatula-wise addition of sodium hydrogen carbonate while stirring. An additional 100 ml of water were added. The phases were separated and the aqueous phase was extracted twice with 200 ml of dichloromethane each time. The combined organic phases were dried over magnesium sulfate, concentrated in a vacuum and the crude product obtained was crystallized from diethyl ether/hexane. 16.5 g (92%) of (RS)-2-(2-oxo-ethyl)-6-fluoro-1-indanone were obtained as a white solid with m.p. 62°.

reactant | ozone | O=[O+][O-] | O3
reactant | ozone | 3 g | O=[O+][O-] | O3
reactant | (RS)-2-(2-buten-1-yl)-6-fluoro-1-indanone | 18.9 g | C(C=CC)C1C(C2=CC(=CC=C2C1)F)=O | C13H13FO
solvent | dichloro-methane | 300 ml | ClCCl | CH2Cl2
solvent | methanol | 60 ml | CO | CH4O
product | (RS)-2-(2-oxo-ethyl)-6-fluoro-1-indanone | 16.5 g, 92% | O=CCC1C(C2=CC(=CC=C2C1)F)=O | C11H9FO2
